US06476077B1
Using the procedure of Rule, H G and Thompson, S B; J. Chem. Soc. 1764-1767 (1937), 1,8-naphthalic anhydride was brominated and converted to 3-bromo-1-naphthoic acid. This was esterified to methyl 3-bromo-1-naphthoate according to the following procedure. 3-Bromo-1-naphthoic acid (103.0 g, 410 mmol) was dissolved in DCM (1250 mL) and the solution cooled to 0° C. Oxalyl chloride (67.5 g, 532 mmol) was added in one portion followed by a catalytic amount of DMF (1.5 mL), and the resulting solution allowed to warm to ambient temperature and stir for 4 hours. The mixture was evaporated in vacuo, and the residue concentrated a second time from toluene. The resultant acid chloride was dissolved in methanol (1250 mL) and stirred at ambient temperature for 18 h. The mixture was evaporated in vacuo, and the residue purified by chromatography (eluent: DCM:hexanes 1:3) to provide methyl 3-bromo-1-naphthoate as a white solid (106.9 g, 98%). 1H-NMR (CDCl3) δ4.01 (s, 3H, CO2CH3); 7.50-7.69 (m, 2H, aromatic); 7.78-7.87 (d, 1H, aromatic); 8.18 (s, 1H, aromatic); 8.25 (s, 1H, aromatic); 8.80-8.94 (d, 1H, aromatic). Using the procedure of Dewar, J S and Grisdale, P J; J. Amer. Chem. Soc., 84, 3541-3546 (1962), methyl-3-bromo-1-naphthoate was converted to methyl 3-cyano-1-naphthoate and then saponified (LiOH) to afford 3-cyano-1-naphthoic acid. 3-Cyano-1-naphthoic acid (15.9 g, 80.6 mmol) was suspended in DCM (4590 mL). To the stirred mixture was added oxalyl chloride (12.8 g, 100 mmol) in one portion followed by a catalytic amount (5 drops) of DMF. The mixture was stirred for 5 hours at room temperature giving a clear solution. The mixture was concentrated in vacuo, and the residue concentrated twice from toluene to provide the crude acid chloride as a light yellow solid (17.4 g, quantitative). 1H-NMR (300 MHz, d6 acetone) δ7.86-7.91 (t, 1H, aromatic); 7.98-8.04 (t, 1H, aromatic); 8.28-8.32 (d, 1H, aromatic); 8.66-8.72 (d, 1H, aromatic); 8.80 (s, 1H, aromatic); 8.93 (s, 1H, aromatic).

reactant | methyl-3-bromo-1-naphthoate | COC(=O)C1=CC(=CC2=CC=CC=C12)Br | C12H9BrO2
reactant | methyl 3-cyano-1-naphthoate | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)OC | C13H9NO2
reactant | LiOH | [Li+].[OH-]
product | 3-cyano-1-naphthoic acid | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)O | C12H7NO2
